US07547691B2
(A). Preparation of 4-ethylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester
Using the method of 4-methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester, the title compound is synthesized from piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester and isolated as a tan oil.

reactant | 4-methylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C13H23NO4
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
product | 4-ethylpiperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC | C14H25NO4
